US05216170
1-[2-(2-Ethoxyethoxy)-5-pyridyl]-2-nitro-1-propene
A mixture of 8.3 g (42.6 mmol) of 2-(2-ethoxyethoxy)-pyridine-5-aldehyde, 5.53 g, (73.7 mmol) of nitroethane and 3.83 g (49.7 mmol) of ammonium acetate in 50 ml of glacial acetic acid is heated under reflux for 7 hours. The mixture is then diluted with water while cooling in ice, and the product is filtered off with suction.

reactant | 2-(2-ethoxyethoxy)-pyridine-5-aldehyde | 42.6 mmol, 8.3 g | C(C)OCCOC1=NC=C(C=C1)C=O | C10H13NO3
reactant | nitroethane | 73.7 mmol | [N+](=O)([O-])CC | C2H5NO2
reactant | ammonium acetate | 49.7 mmol, 3.83 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-[2-(2-Ethoxyethoxy)-5-pyridyl]-2-nitro-1-propene | C(C)OCCOC1=NC=C(C=C1)C=C(C)[N+](=O)[O-] | C12H16N2O4
